US09315458B2
A) 3-fluoro-2-hydroxy-4-methylbenzoic acid
A mixture of 2,3-difluoro-4-methylbenzoic acid (25.0 g), sodium hydroxide (23.2 g) and DMSO (250 mL) was stirred at 140° C. for 12 hr, and then overnight at room temperature, under argon atmosphere. To the reaction mixture was added 6M hydrochloric acid (100 mL) under ice-cooling. Ethyl acetate and water were added thereto at room temperature, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (24.3 g). This compound was used in the next step without an additional purification.

reactant | 2,3-difluoro-4-methylbenzoic acid | 25.0 g | FC1=C(C(=O)O)C=CC(=C1F)C | C8H6F2O2
reactant | sodium hydroxide | 23.2 g | [OH-].[Na+]
reactant | DMSO | 250 mL | CS(=O)C | C2H6OS
reactant | hydrochloric acid | 6M, 100 mL | Cl | ClH
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-fluoro-2-hydroxy-4-methylbenzoic acid | 24.3 g | FC=1C(=C(C(=O)O)C=CC1C)O | C8H7FO3
